US06660744B1
A mixture of tert-butyl N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]carbamate (3.71 g, 0.0116 mol), cis-3-iodo-1-[4-(4-methylpiperazino)-cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (4.46 g, 0.0101 mol), tetrakis-(triphenylphosphine)palladium (0.700 g, 0.00061 mol) and sodium carbonate monohydrate (3.13 g, 0.0253 mol) was heated in a mixture of ethylene glycol dimethyl ether (140 mL) and water (70 mL) at 80° C. for sixteen hours under an atmosphere of nitrogen. The mixture was allowed to cool to ambient temperature and solvents were removed under the reduced pressure. The residue was partitioned between saturated aqueous sodium bicarbonate solution (300 mL) and ethyl acetate (300 mL), the organic layer separated and the aqueous layer further extracted with ethyl acetate twice (150 mL each). The combined organic extracts were dried over magnesium sulfate. The solvents were evaporated under reduced pressure to leave a tan solid which was purified by flash column chromatography on silica using dichloromethane/triethylamine/methanol (95:4:1) as a mobile phase to give cis-tert-butyl N-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)carbamate (4.1 g, 0.0081 mol) as a white solid.

reactant | tert-butyl N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]carbamate | 0.0116 mol, 3.71 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)NC(OC(C)(C)C)=O)C | C17H26BNO4
reactant | cis-3-iodo-1-[4-(4-methylpiperazino)-cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.0101 mol, 4.46 g | IC1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C16H24IN7
reactant | sodium carbonate monohydrate | 0.0253 mol, 3.13 g | O.C([O-])([O-])=O.[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 140 mL | COCCOC | C4H10O2
solvent | water | 70 mL | O | H2O
product | cis-tert-butyl N-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)carbamate | 0.0081 mol, 4.1 g | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)NC(OC(C)(C)C)=O)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C27H38N8O2
